US09359375B2
A mixture of (R)-2-(3-bromo-4-cyanophenylamino)propanamide (185 mg, 0.690 mmol), 5-amino-3-methylisothiazole hydrochloride (133 mg, 0.883 mmol), BINAP (40 mg, 0.064 mmol), Pd(OAc)2 (30 mg, 0.13 mmol) and K2CO3 (300 mg, 2.17 mmol) in dioxane (4 mL) was degassed with Ar, then was stirred at 120 C for 18 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give ((R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)propanamide (127 mg).

reactant | (R)-2-(3-bromo-4-cyanophenylamino)propanamide | 0.690 mmol, 185 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)N)C | C10H10BrN3O
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.883 mmol, 133 mg | Cl.NC1=CC(=NS1)C
reactant | BINAP | 0.064 mmol, 40 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 2.17 mmol, 300 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.13 mmol, 30 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)propanamide | 127 mg | C(#N)C1=C(C=C(C=C1)N[C@@H](C(=O)N)C)NC1=CC(=NS1)C | C14H15N5OS
